US08912219B2
Step 1: Imidazole-1-sulfonic acid (4-fluoro-benzyl)-methyl-amide
A solution of 4-fluoro-N-methylbenzylamine (420 μL, 3.19 mmol) in acetonitrile (10 mL) was treated with 3-(imidazole-1-sulfonyl)-1-methyl-3H-imidazol-1-ium triflate (1.50 g, 4.14 mmol) and stirred at ambient temperature for 5 days. The mixture was concentrated under vacuum and purified by silica gel chromatography to afford the title compound (342 mg, 40%) as a pale yellow/orange oil. 1H NMR (400 MHz, DMSO) δ 7.98 (br s, 1H), 7.25 (m, 4H), 7.08 (m, 2H), 4.26 (s, 2H), 2.75 (s, 3H). LCMS (m/z, Method A) ES+ 270.0 [M+1]+.

reactant | 4-fluoro-N-methylbenzylamine | 3.19 mmol, 420 μL | FC1=CC=C(CNC)C=C1 | C8H10FN
reactant | 3-(imidazole-1-sulfonyl)-1-methyl-3H-imidazol-1-ium triflate | 4.14 mmol, 1.50 g | [O-]S(=O)(=O)C(F)(F)F.N1(C=NC=C1)S(=O)(=O)N1C=[N+](C=C1)C
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Imidazole-1-sulfonic acid (4-fluoro-benzyl)-methyl-amide | 342 mg, 40% | FC1=CC=C(CN(S(=O)(=O)N2C=NC=C2)C)C=C1 | C11H12FN3O2S
